resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 0.98127
R2 0 n2 0.992562
R3 0 n4 1.006626
R4 n1 n3 1.008108
R5 n1 n5 0.097595
R6 n2 n3 1.003704
R7 n2 n6 0.980539
R8 n3 n7 1.005702
R9 n4 n5 1.013232
R10 n4 n6 0.999398
R11 n5 n7 0.982101
R12 n6 n7 1.018369
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
